US05576324
2-Azidomethyl-5,8,9-trimethyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one:
2-Bromomethyl-5,8,9-trimethyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one (1.07 g, 3.32 mmol) was dissolved in N,N-dimethylformamide (30 ml). To the obtained solution, sodium azide (1.29 g, 19.9 mmol) was added. The mixture was stirred at room temperature for 4 hours. The reaction mixture was subjected to distillation under reduced pressure for removing the solvent. To the resultant residue, chloroform and water were added. The mixture was extracted, dried, and condensed. Recrystallization from chloroform--n-hexane yielded 8.99 mg of the title compound as yellow needles (95.2%).

reactant | 2-Bromomethyl-5,8,9-trimethyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one | 3.32 mmol, 1.07 g | BrCC1CC=2C(=C3C(=C(C(NC3=C(C2)C)=O)C)C)O1 | C15H16BrNO2
reactant | sodium azide | 19.9 mmol, 1.29 g | [N-]=[N+]=[N-].[Na+]
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-Azidomethyl-5,8,9-trimethyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one | 8.99 mg, 95.2% | N(=[N+]=[N-])CC1CC=2C(=C3C(=C(C(NC3=C(C2)C)=O)C)C)O1 | C15H16N4O2
